US09034866B2
Synthesis of (±)-9-((3-hydroxy-1-methyl-2-oxopiperidin-3-yl)ethynyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide
Similar to as described in General Procedure G, 9-bromo-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide was reacted with 3-ethynyl-3-hydroxy-1-methylpiperidin-2-one to give the titled compound as a white solid (10 mg, 8%).

reactant | 9-bromo-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide | BrC1=CC2=C(OCCC3=C2N=C(S3)C(=O)N)C=C1 | C12H9BrN2O2S
reactant | 3-ethynyl-3-hydroxy-1-methylpiperidin-2-one | C(#C)C1(C(N(CCC1)C)=O)O | C8H11NO2
product | (±)-9-((3-hydroxy-1-methyl-2-oxopiperidin-3-yl)ethynyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide | 10 mg, 8% | OC1(C(N(CCC1)C)=O)C#CC1=CC2=C(OCCC3=C2N=C(S3)C(=O)N)C=C1 | C20H19N3O4S
